US09102662B2
N-[5-(3,5-Difluoro-benzoyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide [(VII), R1=R2=R3=H, R=3,5-difluorophenyl, PG=triphenylmethyl, PG1=trifluoroacethyl]
N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide (19.11 g, 51.76 mmol) in dry dichloromethane (300 mL) was treated with chlorotriphenylmethane (14.72 g, 52.8 mmol) and triethylamine (14.55 mL, 103.5 mmol). After stirring at room temperature for two days, the reaction was washed with a solution of NH4Cl, dried and evaporated. Purification of the crude by chromatography over silica gel (DCM/MeOH) afforded 27.32 g of the title compound (86% yield).

reactant | N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | 51.76 mmol, 19.11 g | FC=1C=C(C(=O)C=2C=C3C(=NNC3=CC2)NC(C(F)(F)F)=O)C=C(C1)F | C16H8F5N3O2
reactant | chlorotriphenylmethane | 52.8 mmol, 14.72 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | triethylamine | 103.5 mmol, 14.55 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-Difluoro-benzoyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | 27.32 g, 86% yield | FC=1C=C(C(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C(F)(F)F)=O)C=C(C1)F | C35H22F5N3O2
